US08431574B2
Step A. Preparation of 2-(4-bromo-2-fluorophenylamino)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid (2-vinyloxyethoxy)-amide
2-(4-Bromo-2-fluorophenylamino)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid (0.020 g, 0.059 mmol) was coupled as described previously in Example 154 using O-(2-vinyloxy-ethyl)-hydroxylamine to yield 0.015 g (60%) pure desired product as a yellow solid.

reactant | 2-(4-Bromo-2-fluorophenylamino)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid | 0.059 mmol, 0.020 g | BrC1=CC(=C(C=C1)NC=1N(C(C=CC1C(=O)O)=O)C)F | C13H10BrFN2O3
reactant | O-(2-vinyloxy-ethyl)-hydroxylamine | C(=C)OCCON | C4H9NO2
product | 2-(4-bromo-2-fluorophenylamino)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid (2-vinyloxyethoxy)-amide | 0.015 g, 60% | C(=C)OCCONC(=O)C1=C(N(C(C=C1)=O)C)NC1=C(C=C(C=C1)Br)F | C17H17BrFN3O4
